US08022222B2
Using the method of Example 3, Step B, methyl 2-(2-chloropyridin-4-yloxy)benzoate (1.91 g, 7.23 mmol), 4-methylthiazol-2-amine (16.4 mL, 6.57 mmol), potassium phosphate (1.53 g, 7.23 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.105 g, 0.181 mmol) and Pd2(dba)3 (0.150 g, 0.164 mmol) were reacted in toluene (16 mL) and water (5 mL) to provide methyl 2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate as yellow solid. 1H NMR (CDCl3) δ 8.16 (d, 1H), 8.01 (dd, 1H), 7.57 (m, 1H), 7.35 (dt, 1H), 7.13 (d, 1H), 6.43 (dd, 1H), 6.29 (d, 1H), 6.21 (dc, 1H), 3.75 (s, 3H), 2.19 (d, 3H); Mass spectrum (esi) m/z=342 (100) (M+H).

reactant | methyl 2-(2-chloropyridin-4-yloxy)benzoate | 7.23 mmol, 1.91 g | ClC1=NC=CC(=C1)OC1=C(C(=O)OC)C=CC=C1 | C13H10ClNO3
reactant | 4-methylthiazol-2-amine | 6.57 mmol, 16.4 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | potassium phosphate | 7.23 mmol, 1.53 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.181 mmol, 0.105 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.164 mmol, 0.150 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 5 mL | O | H2O
product | methyl 2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate | CC=1N=C(SC1)NC1=NC=CC(=C1)OC1=C(C(=O)OC)C=CC=C1 | C17H15N3O3S
